US05064947
First, 1.13 g of the starting material 4-chloro-1-phenylpyrazolo[3,4-d]pyrimidine was combined with 0.67 ml Et3N, 0.74 g of (R)-(+)-2-amino-3-phenyl-1-propanol in 60 ml absolute ethanol and heated in a steam bath for four hours. The solvent was then removed under vacuum and the residue was purified by flash chromatography (10-20% isopropyl alcohol/hexane) to yield 1.24 g of (R)-β-[1-phenyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol (74% yield).

reactant | 4-chloro-1-phenylpyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2)C2=CC=CC=C2 | C11H7ClN4
reactant | Et3N | 0.67 ml | CCN(CC)CC | C6H15N
reactant | (R)-(+)-2-amino-3-phenyl-1-propanol | 0.74 g | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | benzenepropanol | 74% yield | C1(=CC=CC=C1)CCCO | C9H12O
